US07943669B2
Step A: [4-(3-Cyclopentyloxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester
The title product was prepared from [4-(3-Bromo-5-cyclopentyloxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (250 mg; 0.54 mmol), (phenyl acetylene (110 mg; 1.07 mmol) applying the procedure described for {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method B). Yield: 186 mg (70%). HPLC-MS: m/z: 487.1 (M+H)+; Rt: 3.17 min.

reactant | [4-(3-Bromo-5-cyclopentyloxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester | 0.54 mmol, 250 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1CCCC1)Br)C)=O | C22H25BrO4S
reactant | phenyl acetylene | 1.07 mmol, 110 mg | C1(=CC=CC=C1)C#C | C8H6
reactant | {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | [4-(3-Cyclopentyloxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)OC1CCCC1)C)=O | C30H30O4S
